* AD4622 SPICE Macro-model             
* Description: Amplifier
* Generic Desc: 30V, JFET, OP, S SPLY, RRO
* Developed by: DB / ADSJ
* Revision History:
* 1.0 (11/2015)
* Copyright 2015 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
* 
*
* Notes: This model simulates typical values @ Vsy=±15V, T=25°C. 
*        Ibias and Vos are static and will not vary with Vcm.
*        Distortion is not modelled.
*        (ada4622 DMod model)
*
* Usage:-

*X1 7 4 6 3 2 ADA4622
*   | | | | |
*   | | | | Inverting Input
*   | | | Non-Inverting Input
*   | | Output
*   | Negative Supply
*   Positive Supply

.SUBCKT ADA4622 7 4 6 3 2

* Input Impedances

I1 0 3 1.000E-012
I2 0 2 1.000E-012
R3 3 2 1.333E+013
R4 3 0 2.000E+013
R5 2 0 2.000E+013
C1 3 0 1.800E-012
C2 2 0 1.800E-012
C3 3 2 4.000E-013

* Preconditioning Gain Stage and Sum Node for
* Transconductance Control and Noise Insertion

G1 0 41 POLY(2) 3 2 60 63 0.000E+000 2.377E-003 1.947E-003

* Limiting Section for Slew-Rate Control

D5 41 43 DL
V1 43 0 1.082E+002
D6 42 41 DL
V2 0 42 8.170E+001
G2 41 0 41 0 1.0E-5
E6 20 0 POLY(1) 41 0 0 1
+0 -6.562164E-006 0 -5.302485E-012
+0 3.817254E-016 0 -1.371241E-021

.MODEL DL D IS=1E-18 EG=0.1 N=0.2

* Second-Order Frequency Shaping

R50 20 21 5
C50 21 0 1.224E-009
R52 21 23 35
C51 23 0 5.350E-011
R54 23 25 245
C52 25 0 7.642E-012
R56 25 27 1715
C53 27 0 1.031E-012
R58 27 40 12005
C54 40 0 1.105E-013

* Primary Gain Block and Dominant Pole/Zero

G3 0 44 POLY(3) 45 6 40 0 0 54 0 -1.033E-003 1E-5 5E-4
G4 44 0 44 0 1.981E-011
C4 44 4 4.348E-013

* Output Stage and Swing Limiting Network

E2 46 0 POLY(1) 7 0 -1.178E+000 1.000E+002
E3 47 0 POLY(1) 4 0 2.801E-001 1.000E+002
D7 44 46 DL
D8 47 44 DL
G7 45 6 45 6 100
E5 55 0 6 0 1.00E+002
C5 55 50 4.348E-013
R7 50 44 1.150E+005
E4 53 0 45 6 2.863E+005
V7 53 56 7.734E+001
D9 56 54 DL
V8 57 53 100.2
D10 54 57 DL
G5 54 0 54 0 9.1E-6
G8 45 7 POLY(2) 7 0 0 44 0 2.500E-002 2.500E-004
G9 45 4 POLY(2) 4 0 0 44 0 2.500E-002 2.500E-004
R12 7 45 4.000E+001
R13 4 45 4.000E+001
G10 58 59 POLY(2) 0 45 44 0 0 2.500E-002 2.500E-004
G11 51 0 51 0 100
G12 52 0 52 0 100
G13 4 7 POLY(2) 51 0 52 0 0 100 100
D11 59 0 DX
D12 51 59 DX
D13 52 58 DX
D14 58 0 DX
R10 58 0 7.00E+003
R11 59 0 7.00E+003

.MODEL DX D IS=1E-14 EG=0.6

* Quiescent Supply Current

I9 7 4 6.650E-004

* Noise Modeling

D60 60 0 DN1 1000
I60 0 60 1E-3
D63 63 0 DN2
I63 0 63 1E-6

.MODEL DN1 D IS=1E-16
.MODEL DN2 D IS=1E-16 AF=1 KF=7.715E-018

.ENDS ADA4622
