* ADA4638-1 SPICE Macro-model
* Typical Values simulated for Vsy = 30V and T=25°C
* 10/11 Rev 0
* VW ADSJ
*
* Copyright 2011 by Analog Devices
* Refer to "README.DOC" file for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in
* the License Statement.
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT ADA4638         1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=1E-6 W=1.22E-03
M2   6  2  8  8 PIX L=1E-6 W=1.22E-03
RD1  4 50 8.00E+02
RD2  6 50 8.00E+02
C1   4  6 3.34E-11
I1  99  8 5.00E-04
V1   9  8 1.968E+00
D1   9 99 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (281,98) 5.00E-07 1 1 1 1
IOS  1  2 1.25E-11
Ccm1 1 0 9E-12
Ccm2 2 0 9E-12
Cdm 1 2 4E-12
*
* CMRR
*
E1  72 98 POLY(2) (1,98) (2,98) 0 6.58E-03 6.58E-03
R10 72 73 4.55E+01
R20 73 98 7.96E-02
C10 72 73 1.00E-06
*
* PSRR
*
EPSY 21 98 POLY(1) (99,50) +4.532E+01 -1.5107E+00
RPS1 21 22 6.37E+03
RPS2 22 98 5.31E-02
CPS1 21 22 1.00E-06
*
* VOLTAGE NOISE REFERENCE 
*
VN1 80 98 0
RN1 80 98 80E-6
HN  810 98 VN1 120
HN_add  281 98 VN1 2.9E-0
RN_add 281 98 1
*
RN10 810 183 5.3
CN10 183 98 2e-6
*
CN20 183 184 2.23E-07
RN20 184 98 10
*
RN30 184 81 129k
CN30 81 98 2.41E-10
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) 1.493E-04 3.40E-06
EVP  97 98 POLY(1) (99,50) 0.1E0 0.04
EVN  51 98 POLY(1) (50,99) 0.08E0 0.08
*
* GAIN STAGE
*
G1 98 30 (4,6) 1.43E-02
R1 30 98 1.00E+06
CF 30 31 3.20E-09
RZ 45 31 2.59E+02
D3 30 97 DX
D4 51 30 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=8.09E-04
M6  45 47 50 50 NOX L=1E-6 W=1.75E-03
EG1 99 46 POLY(1) (98,30) 4.946E-01 1
EG2 47 50 POLY(1) (30,98) 4.412E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=1.00E-05,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=1.00E-05,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=1.00E-05,VTO=-5.00E-01,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=4.91E-16)
*
*
.ENDS ADA4638
*
*$
