* source ADA4899
** .SUBCKT ADA4899 INV NINV OUT VCC VEE
.SUBCKT ADA4899 NINV INV VCC VEE OUT
*
* Version 0602192
* Generated by Interface Technologies
* www.i-t.com
*  
I_I1         4 VEE_INT DC 1e-2  
D_D_VEEclamp         VEEVNBAT 10 DN 
R_RP3         MAINP2 100 RCOLD 1
I_I4         100 ISUPP2 DC .6m  
R_RCM2         VINMID INV RCOLD 1000MEG
D_DN1         35 36 DEN 
Q_Q2         6 INV 8 NPN 
R_RCMR1         CMR_SET 100 RCOLD 1
D_D9         ISUPP2 VEE DNOM 
G_G2         100 10A 10 100 1
R_Rout         80 81 RCOLD 30
D_DN4         94 95 DIN 
E_E1         100 0 103 0 1
E_E4         VCC_INT 0 VCC 0 1
G_GV         100 15 6 5 1
V_VL1         82 81 .089
L_LCM         31 30  5.1931e-4  
G_GN1         0 NINV 94 0 0.7e-6
V_VN3         0 93 2
I_I2         ISUPP1 100 DC .6m  
R_RP1         10 100 RCOLD 1.31e6
E_E5         VEE_INT 0 VEE 0 1
D_D11         83 MAINP2 DILIM 
E_DIFF1         CMRERR 0 VALUE {V(CMR_SET,VINMID)}
D_DN5         96 97 DIN 
C_CCM3         100 CMRRP2  1.8e-9  
R_R4         100 ISUPP2 RCOLD 10meg
E_E7         CMR_SET 100 VALUE { Limit(V(VINMID, 100), -3.7, 3.7) }
E_ENIN         N265500 N265385 36 0 3.5e-10
V_VN5         0 96 2
R_RCM4         CMRR_V 100 RCOLD 1
L_LCM1         N298875 CMRRP1  3.899e-8  
E_EOS1         NINV N264552 POLY(1) CMRERR 100 0.0 0
C_COPOUT         100 81  2p  
R_R3         ISUPP1 100 RCOLD 10meg
R_RE1         7 4 RCOLD 10
V_VN2         37 0 3Vdc
C_CP1         100 10  4.0e-12  
R_RCM1b         31 100 RCOLD 4
G_G3a         100 MAINP2 10A 100 1
R_R5         100 CMRERR RCOLD 1k
G_G10         0 INV 97 0 0
L_Lout         OUT 81  .011f  
V_VN6         98 0 2
R_R6         CMRRP1 N298875 RCOLD 4
R_RCM2a         N298875 100 RCOLD 1
R_RC2         VCC_INT 6 RCOLD 15.17
G_G4         100 ISUPP2 80 81 -.033
D_D10         MAINP2 82 DILIM 
R_RCM3         CMRRP2 100 RCOLD 1
C_CP2         100 10A  2.27e-10  
D_DN2         36 37 DEN 
Q_Q1         5 N265500 7 NPN 
D_D8         VCC ISUPP1 DNOM 
G_G8         100 CMRR_V CMRRP2 100 1
D_DN6         97 98 DIN 
C_CP3         100 MAINP2  2.27e-10  
G_G7         100 CMRRP2 CMRRP1 100 1
R_RC1         VCC_INT 5 RCOLD 15.17
D_D7         ISUPP2 100 DZ 
G_G1         100 10 15 100 1e-4
V_VP         VCC_INT VCCVPBAT 1.68
G_G6         100 CMRRP1 30 100 1
D_DN3         93 94 DIN 
R_RV         15 100 RCOLD 100
E_EBUF         80 100 MAINP2 100 1
R_RCM1         NINV VINMID RCOLD 1000MEG
D_DZ1         15 16 DLIM 
R_RE2         8 4 RCOLD 10
D_D6         100 ISUPP1 DZ 
C_CCM4         100 CMRR_V  1.8e-9  
D_D_VCCclamp         10 VCCVPBAT DP 
V_VL2         81 83 .089
V_VN1         0 35 3Vdc
E_E8         103 VEE_INT VALUE { (V(VCC_INT)-V(VEE_INT))/2 }
R_RCM2b         30 31 RCOLD 1.56e7
V_VN         VEEVNBAT VEE_INT 1.68
D_DZ2         100 16 DLIM 
E_EOS         N264552 N265385 POLY(1) CMRR_V 100 0.0 0
G_G5         100 30 VINMID 100 9.162e-8
G_G3         ISUPP1 100 80 81 .033
V_VN4         95 0 2
R_RP2         10A 100 RCOLD 1
.MODEL DLIM D(IS=1E-15 BV=13.22)
.MODEL DEN  D(IS=1E-9 RS=1000 KF=1.5E-12 AF=.89)
.MODEL DIN  D(IS=.85E-9 RS=1 KF=1.5E-17 AF=.92)
.MODEL	DNOM	D(IS=1E-15 T_ABS=-100)
.MODEL	DZ	D(IS=1E-15 BV=50 T_ABS=-100)
.MODEL  RCOLD	RES T_ABS=-273
.MODEL 	DILIM	D(IS=1E-15)
.MODEL NPN  NPN(BF=8.33e2 )
.MODEL	DP	D(IS=5E-10 BV=700 )
.MODEL	DN	D(IS=5E-10 BV=700 )
.MODEL DCMRP D(IS=1E-15 BV=2)
.MODEL DCMRM D(IS=1E-15 BV=4.6)
.ENDS
